US07625889B2
Step 2: 6-(1H-Indol-5-yl)-pyrazine-2-carboxylic acid ethyl ester:
6-Chloro-pyrazine-2-carboxylic acid ethyl ester (1.35 g, 7.23 mmol) was added to indole-5-boronic acid (1.16 g, 7.23 mmol), cesium carbonate (9.43 g, 28.9 mmol) and PdCl2(dppf).DCM (591 mg, 0.72 mmol) in 30 mL of dioxane. The mixture was degassed (evacuate in vacuo and pressurize with nitrogen), 14.5 mL of water was added and the mixture degassed. The mixture was heated at 85° C. for 2.5 h. and the mixture was allowed to cool and the layers were separated. The aqueous phase was extracted with chloroform and the combined organic layers were washed with brine, dried over sodium sulfate, filtered and evaporated. Chromatography of the residue on silica gel, eluting with ethyl acetate/pentane afforded 1.07 g of product. LC/MS: Retention time, 3.21 min; (M+H)=268.1.

reactant | 6-Chloro-pyrazine-2-carboxylic acid ethyl ester | 7.23 mmol, 1.35 g | C(C)OC(=O)C1=NC(=CN=C1)Cl | C7H7ClN2O2
reactant | indole-5-boronic acid | 7.23 mmol, 1.16 g | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | cesium carbonate | 28.9 mmol, 9.43 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DCM | 0.72 mmol, 591 mg | C(Cl)Cl | CH2Cl2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(1H-Indol-5-yl)-pyrazine-2-carboxylic acid ethyl ester | 1.07 g | C(C)OC(=O)C1=NC(=CN=C1)C=1C=C2C=CNC2=CC1 | C15H13N3O2
